Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
subarachnoid hemorrhage
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Mr. ___ is a ___ man with cluster headaches who was 
transferred to ___ for evaluation of a subarachnoid 
hemorrhage. 

He was driving home from work on ___ even when he 
developed a sudden onset headache. There is no history of any 
recent trauma. Pain described as a dull achy pain in the back of 
his eyes that radiated to the top ___ of his head. He also has 
neck pain. Getting up quickly makes it worse. Pain was constant 
so he went to ___ last night and was found to 
have a small right frontal subarachnoid hemorrhage. CTA did not 
show an aneurysm.  He was transferred to ___ for further care. 


On arrival, his blood pressure was 170/134. Headache seemed to 
be better. Was put on a cardene drip, BP controlled. Started on 
nimodipine. 

Typical cluster headaches occur about once per year or so, start 
on the left side of his head with a sharp pain near the eye. No 
autonomic symptoms that he could remember. Each headache lasts 
30min to 1hr, better with allergy medications and ibuprofen. 
Never saw a neurologist for these headaches. 

 
Past Medical History:
cluster headaches
 
Social History:
___
Family History:
no history of aneurysm, seizure, or stroke 
 
Physical Exam:
# Admission Exam #

Vitals:  T: 98.2F  HR: 65  BP: 129/75  RR: 18  SaO2: 95% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, speech is fluent with 
full sentences, intact repetition, and intact verbal 
comprehension. Naming intact.  No paraphasias. No dysarthria. 
Normal prosody. No apraxia. No evidence of hemineglect. No 
left-right confusion. Able to follow both midline and 
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to finger wiggling. 
EOMI, 2 beats of end gaze nystagmus that extinguishes and 
saccadic intrusions. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      2+       1
     R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch or pin prick throughout

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred

# Discharge Exam #
Stable as above.
 
Pertinent Results:
___ 05:28AM BLOOD WBC-8.5 RBC-5.42 Hgb-15.2 Hct-45.0 MCV-83 
MCH-28.0 MCHC-33.8 RDW-12.7 RDWSD-38.4 Plt ___
___ 03:20AM BLOOD WBC-10.4* RBC-5.46 Hgb-15.4 Hct-44.3 
MCV-81* MCH-28.2 MCHC-34.8 RDW-12.5 RDWSD-36.3 Plt ___
___ 03:20AM BLOOD Neuts-66.9 ___ Monos-6.9 Eos-1.4 
Baso-0.7 Im ___ AbsNeut-6.95* AbsLymp-2.45 AbsMono-0.72 
AbsEos-0.15 AbsBaso-0.07
___ 03:20AM BLOOD ___ PTT-31.1 ___
___ 05:28AM BLOOD Plt ___
___ 03:20AM BLOOD Glucose-104* UreaN-12 Creat-1.1 Na-137 
K-3.7 Cl-102 HCO3-21* AnGap-18
___ 01:00PM BLOOD Glucose-91 UreaN-17 Creat-1.2 Na-138 
K-4.3 Cl-101 HCO3-28 AnGap-13
___ 03:20AM BLOOD ALT-27 AST-23 AlkPhos-68 TotBili-0.7
___ 03:20AM BLOOD Albumin-4.0
___ 05:15AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.0
___ 05:15AM BLOOD %HbA1c-4.6 eAG-85
___ 03:20AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

MRI Head, MRA Head
IMPRESSION: 

1. Re-identified is right frontal subarachnoid hemorrhage, 
similar in 
configuration to outside hospital CT, allowing for technical 
differences. 
2. No acute infarct or other hemorrhage identified.  No 
underlying enhancing 
mass lesion. 
3. Unremarkable MRA brain.  No evidence of aneurysm or vascular 
malformation. 

 
Brief Hospital Course:
___ man with a h/o cluster headaches presents with acute onset 
headache and found to have a right frontal subarachnoid 
hemorrhage at OSH with evidence of RCVS on vessel imaging, 
discharged on verapamil.

# Right Frontal Subarachnoid Hemorrhage, RCVS
- He was transferred from OSH given evidence of R frontal SAH.  
As it was convexal in nature and without CTA evidence of 
aneurysm, suspicion for aneurysmal bleed was low.  His vessel 
imaging (CTA and confirmed on MRA) demonstrated intermittent 
vessel narrowing,most suggestive of RCVS.  He was started on 
verapamil and did well.  He was discharged on this medication 
with outpatient neurology follow-up to guide longer term 
management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400-600 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth q6hrs PRN Disp #*60 
Tablet Refills:*0 
2.  Verapamil SR 240 mg PO Q24H 
RX *verapamil 240 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
3.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Frontal SAH, likely ___ RCVS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   You were hospitalized at ___ following onset of a new 
severe headache.  You were found to have a small Sub-arachnoid 
hemorrhage (bleeding on the surface of your brain).  Based on 
your imaging, this was likely due to RCVS (Reversible Cerebral 
Vasoconstriction Syndrome), a transient disorder where your 
blood vessels can spasm.
   You were started on Verapamil for this and did very well.  
You were felt to be safe for discharge.  You will need to follow 
with Neurology following discharge to ensure you are doing well.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___